US07897612B2
12a) Ethyl 2-[(3,3-dimethylbutyl)amino]-5-fluoro-3-pyridinecarboxylate
A solution of ethyl 2-chloro-5-fluoro-3-pyridinecarboxylate (0.300 g, 1.47 mmol) in ethanol (3.0 mL) was treated with (3,3-dimethylbutyl)amine (0.210 mL, 1.58 mmol). The mixture was heated to 150° C. for 0.5 h in a Biotage Initiator microwave synthesizer. The solution was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic portion was dried over magnesium sulfate, filtered, and concentrated in vacuo. The title compound was obtained as an amber oil (0.347 g, 88%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 6.61 (d, J=3.0 Hz, 1H), 6.30 (dd, J=8.8, 3.0 Hz, 1H), 6.24 (br. s., 1H), 2.80 (q, J=7.1 Hz, 2H), 1.88-1.99 (m, 2H), −0.02-0.09 (m, 2H), −0.14 (t, J=7.2 Hz, 3H), −0.53 (s, 9H). MS(ES+) m/e 269 [M+H]+.

reactant | ethyl 2-chloro-5-fluoro-3-pyridinecarboxylate | 1.47 mmol, 0.300 g | ClC1=NC=C(C=C1C(=O)OCC)F | C8H7ClFNO2
reactant | (3,3-dimethylbutyl)amine | 1.58 mmol, 0.210 mL | CC(CCN)(C)C | C6H15N
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[(3,3-dimethylbutyl)amino]-5-fluoro-3-pyridinecarboxylate | CC(CCNC1=NC=C(C=C1C(=O)OCC)F)(C)C | C14H21FN2O2
